US07247638B2
1.1 6-Phenyl-1,4,5,6-tetrahydro-2-pyrimidinamine hydrochloride (1:2)
To a solution of 5 g (29.2 mmoles) of 2-amino-4-phenylpyrimidine in 30 ml of a 6N solution of hydrochloric acid in isopropanol was added 0.1 g of palladium on carbon catalyst (10% wt/wt). The suspension was hydrogenated under 40 psi pressure at room temperature during 3 h. The catalyst was removed by filtration and the solvent evaporated under reduced pressure. Diethyl ether was added and the resulting solution was refiltered and the solvent removed by evaporation under reduced pressure to give 4.0 g (55%) of compound as a crude oil which was used as such.

reactant | 2-amino-4-phenylpyrimidine | 29.2 mmoles, 5 g | NC1=NC=CC(=N1)C1=CC=CC=C1 | C10H9N3
reactant | hydrochloric acid | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
catalyst | palladium on carbon | 0.1 g | [Pd] | Pd
product | 6-Phenyl-1,4,5,6-tetrahydro-2-pyrimidinamine hydrochloride | 4.0 g, 55% | Cl.C1(=CC=CC=C1)C1CCN=C(N1)N | InChI=1S/C10H13N3.ClH/c11-10-12-7-6-9(13-10)8-4-2-1-3-5-8;/h1-5,9H,6-7H2,(H3,11,12,13);1H
